US05198208
(e) 1,2-Diamino-1-benzyloxymethyl-ethane-dihydrochloride
1-Amino-2-benzyloxymethyl-1-phthalimido-ethane (3.0 g, 9.7 mmol) is dissolved in 50 ml dry methanol and hydrazine hydrate (968 mg, 19.3 mmol) is added. After being refluxed for 4 hours, the reaction mixture is stirred for 24 hours at ambient temperature and 50 ml 2N hydrochloric acid was added. The phthalhydrazide is removed by filtration and the 1,2-diamino-1-benzyloxymethyl-ethane-dihydrochloride is purified by recrystallisation from dry ethanol.

reactant | 1-Amino-2-benzyloxymethyl-1-phthalimido-ethane | 9.7 mmol, 3.0 g | NC(CCOCC1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C18H18N2O3
reactant | hydrazine hydrate | 19.3 mmol, 968 mg | O.NN
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 1,2-Diamino-1-benzyloxymethyl-ethane-dihydrochloride | Cl.Cl.NC(CN)COCC1=CC=CC=C1 | InChI=1S/C10H16N2O.2ClH/c11-6-10(12)8-13-7-9-4-2-1-3-5-9;;/h1-5,10H,6-8,11-12H2;2*1H
